US08975282B2
Step 4) N-(5-((2-aminopyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a solution of 4-((6-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)pyridin-3-yl)oxy)picolinamide (60 mg, 0.13 mmol) in EtOAc/MeCN/H2O (2 mL/2 mL/1 mL) was added iodobenzene diacetate (54 mg, 0.16 mmol) at 0° C. The reaction was stirred at rt for 2 hours, then concentrated in vacuo. The resulted residue was dissolved in EtOAc (10 mL), washed with saturated aq. NaHCO3, and then dried over anhydrous Na2SO4. The organic solution was concentrated in vacuo to give the title compound as a yellow solid (43 mg, 77%).

reactant | 4-((6-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)pyridin-3-yl)oxy)picolinamide | 0.13 mmol, 60 mg | CN1N(C(C(=C1C)C(=O)NC1=CC=C(C=N1)OC1=CC(=NC=C1)C(=O)N)=O)C1=CC=CC=C1 | C23H20N6O4
reactant | iodobenzene diacetate | 0.16 mmol, 54 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | EtOAc MeCN H2O | 2 mL | CCOC(=O)C.CC#N.O
product | N-(5-((2-aminopyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 43 mg, 77% | NC1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C22H20N6O3
